US05034417
Zinc chloride (7.2 g) was added portionwise to a stirred mixture of 2,4-difluorobenzoyl chloride (17 g) and 4-ethylaniline (5.3 g) at 180° C. The mixture was stirred for 2.5 hours at 200° C. and cooled to 120° C. To the mixture was added 3N hydrochloric acid (50 ml) and the resulting mixture was refluxed for 1.5 hours, then the supernatant was decanted out. The above procedure was repeated three times. 75% Sulfuric acid (40 ml) was added and the reaction mixture was stirred and heated at 140° C. for 2 hours. The reaction mixture was poured into ice (500 ml) and extracted with dichloromethane. The organic layer was washed with 3N hydrochloric acid (200 ml), 3N sodium hydroxide (200 ml) and water, dried, and evaporated. The oily residue (5.7 g) was purified by column chromatography on silica gel (170 g) eluting with toluene to give crystals of 2-amino-5-ethyl-2',4'-difluorobenzophenone (3.5 g).

reactant | 2,4-difluorobenzoyl chloride | 17 g | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | 4-ethylaniline | 5.3 g | C(C)C1=CC=C(N)C=C1 | C8H11N
catalyst | Zinc chloride | 7.2 g | [Cl-].[Zn+2].[Cl-]
solvent | hydrochloric acid | 3N, 50 ml | Cl | ClH
product | 2-amino-5-ethyl-2',4'-difluorobenzophenone | 3.5 g | NC1=C(C(=O)C2=C(C=C(C=C2)F)F)C=C(C=C1)CC | C15H13F2NO
